US09371332B2
4-chloro-3,5-diphenyl-1-(3-pyridylmethyl)pyrazolo[3,4-c]pyridazine (Compound IIn)
Compound IIn was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and pyridin-3-ylmethanol following the general procedure for the Mitsunobu reaction.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | pyridin-3-ylmethanol | N1=CC(=CC=C1)CO | C6H7NO
product | 4-chloro-3,5-diphenyl-1-(3-pyridylmethyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CC=2C=NC=CC2 | C23H16ClN5
